US03935253
A solution of 2.0 g of 6-hydroxy-1,6-dimethyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene in 5 ml of pyridine and 50 ml of methylene chloride was treated at -10° with 1.1 ml of acetyl chloride. The mixture was left to stand overnight at room temperature, then poured on to ice and worked up in a conventional manner. The crude product (3.1 g) which was obtained in the form of a brown oil, was chromatographed on 50 times the amount of silica gel. By elution with hexane/ether (19:1) there was obtained pure 6-acetoxy-1,6-dimethyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene; b.p.0.01 ca 70°; IR(film):νmax = 3090, 1735, 1640, 1445, 1368, 1270/50/30, 1095, 1065, 1020, 905/900 cm-1. The compound has a flowery odour with a woody undertone.

reactant | 6-hydroxy-1,6-dimethyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | 2.0 g | OC1(CC(C2CCC(=C2CC1)C)=C)C | C13H20O
reactant | acetyl chloride | 1.1 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-acetoxy-1,6-dimethyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | C(C)(=O)OC1(CC(C2CCC(=C2CC1)C)=C)C | C15H22O2
